US05464788
2-Methoxy-4-(1-Boc-4-piperidyloxy)benzoic acid (0.79 g, 2.24 mmol) was dissolved in ethyl acetate (15 ml). The solution was cooled in ice and saturated with HCl gas, then stirred 30 min in the cold. The mixture was evaporated in vacuo and the residue concentrated from ether three times to give 2-methoxy-4-(4-piperidyloxy)benzoic acid.

reactant | 2-Methoxy-4-(1-Boc-4-piperidyloxy)benzoic acid | 2.24 mmol, 0.79 g | COC1=C(C(=O)O)C=CC(=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C18H25NO6
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 2-methoxy-4-(4-piperidyloxy)benzoic acid | COC1=C(C(=O)O)C=CC(=C1)OC1CCNCC1 | C13H17NO4
